datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCC(C)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCC(C)[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)Sc1ccc([O:21][H:20])cc1.CC(C(N)=O)S(=O)(=O)[NH-:10]>>CC(=O)Sc1ccc([O-:21])cc1.CC(C(N)=O)S(=O)(=O)[NH:10][H:20] 10=20;20,21=21",
"NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2+:21][H:20].O=C(c1ccccc1F)[O-:10]>>NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2:21].O=C(c1ccccc1F)[O:10][H:20] 10=20;20,21=21",
"Cc1n[nH]c2c(N)nc[n:10]c12.Fc1ccccc1[NH2+:21][H:20]>>Cc1n[nH]c2c(N)nc[n+:10]([H:20])c12.Fc1ccccc1[NH2:21] 10=20;20,21=21",
"COc1ccc2cc([O-:10])ccc2c1.Cc1c[n+:21]([H:20])c2cccc([N+](=O)[O-])c2c1NCCC[NH+](C)C>>COc1ccc2cc([O:10][H:20])ccc2c1.Cc1c[n:21]c2cccc([N+](=O)[O-])c2c1NCCC[NH+](C)C 10=20;20,21=21",
"Cc1cccc(-c2nnn[n:21]2[H:20])c1.O=C(Cc1ccc2ccc3ccc[n:10]c3c2n1)c1ccccc1>>Cc1cccc(-c2nnn[n-:21]2)c1.O=C(Cc1ccc2ccc3ccc[n+:10]([H:20])c3c2n1)c1ccccc1 10=20;20,21=21",
"CCCCCCC[NH:10]Cc1ccc(C)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1=CC(=O)Oc2cccc([O-:10])c21.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1=CC(=O)Oc2cccc([O:10][H:20])c21.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)c1ccc[n:10]c1.COc1ccc(-c2[nH]c3cccnc3[n+:21]2[H:20])c(OC)c1>>CC(=O)c1ccc[n+:10]([H:20])c1.COc1ccc(-c2[nH]c3cccnc3[n:21]2)c(OC)c1 10=20;20,21=21",
"Cc1ccc(N[N+:21](=C(C#N)C#N)[H:20])c([N+](=O)[O-])c1.[O-]c1ccc([O-:10])cc1Cl>>Cc1ccc(N[N:21]=C(C#N)C#N)c([N+](=O)[O-])c1.[O-]c1ccc([O:10][H:20])cc1Cl 10=20;20,21=21",
"C1CN2CCC[N:10]2C1.Cc1ccc([O:21][H:20])c(C(C)C)c1>>C1CN2CCC[N+:10]2([H:20])C1.Cc1ccc([O-:21])c(C(C)C)c1 10=20;20,21=21",
"CCC(CC)C1(CC)C(=O)NC(=S)[N-:10]C1=O.C[N+:21]1([H:20])CCC=C(C(=O)[O-])C1>>CCC(CC)C1(CC)C(=O)NC(=S)[N:10]([H:20])C1=O.C[N:21]1CCC=C(C(=O)[O-])C1 10=20;20,21=21",
"CNNC1CC[N+:21](C(C)C)([H:20])CC1.Cc1cccc(C)c1NC(=O)C[N:10](C)C>>CNNC1CC[N:21](C(C)C)CC1.Cc1cccc(C)c1NC(=O)C[N+:10](C)(C)[H:20] 10=20;20,21=21",
"CC1CCn2nnnc2C(C(=O)[O:21][H:20])C1.CNc1cc[n+](C)c([O-])[n:10]1>>CC1CCn2nnnc2C(C(=O)[O-:21])C1.CNc1cc[n+](C)c([O-])[n+:10]1[H:20] 10=20;20,21=21",
"CCOC(=O)C1(CCC(=O)[O:21][H:20])CCC(=O)NC1=O.COc1ccccc1/C=C/C(=O)[O-:10]>>CCOC(=O)C1(CCC(=O)[O-:21])CCC(=O)NC1=O.COc1ccccc1/C=C/C(=O)[O:10][H:20] 10=20;20,21=21",
"NC(=O)CCCc1cc[n:10]cc1.Nc1ccc(S(=O)(=O)[N:21](c2cnccn2)[H:20])cc1>>NC(=O)CCCc1cc[n+:10]([H:20])cc1.Nc1ccc(S(=O)(=O)[N-:21]c2cnccn2)cc1 10=20;20,21=21",
"CC1(C)C[NH:10]1.c1cc2c(c([O:21][H:20])c1)CCC2>>CC1(C)C[NH+:10]1[H:20].c1cc2c(c([O-:21])c1)CCC2 10=20;20,21=21",
"CCC(O)C[N+:21](CC(C)O)(C(C)(C)C)[H:20].CC[N:10](C)c1ccccc1>>CCC(O)C[N:21](CC(C)O)C(C)(C)C.CC[N+:10](C)(c1ccccc1)[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].COC(=O)C(Cc1ccccc1)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COC(=O)C(Cc1ccccc1)[NH2+:10][H:20] 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1ccncc1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1ccncc1)[H:20] 10=20;20,21=21",
"Cc1cc(O)n(-c2ccccc2)[n:10]1.O=C(CCc1c[nH]c2ccccc12)[O:21][H:20]>>Cc1cc(O)n(-c2ccccc2)[n+:10]1[H:20].O=C(CCc1c[nH]c2ccccc12)[O-:21] 10=20;20,21=21",
"CN[C@@H]1C[C@@H]1[NH:10]C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CN[C@@H]1C[C@@H]1[NH+:10](C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C/C=C/CCC(=O)[O-:10].[O-]c1cccc[n+]1[O:21][H:20]>>C/C=C/CCC(=O)[O:10][H:20].[O-]c1cccc[n+]1[O-:21] 10=20;20,21=21",
"C(=C/c1ccccc1)\C=N\[O-:10].OC(=C1SCc2ccccc21)[O:21][H:20]>>C(=C/c1ccccc1)\C=N\[O:10][H:20].OC(=C1SCc2ccccc21)[O-:21] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc(CCC[NH2:10])nc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc(CCC[NH2+:10][H:20])nc1 10=20;20,21=21",
"Cc1cc(/N=N/c2ccc(S([NH-])(=O)=O)cc2)cc(C(=O)[O-])c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(/N=N/c2ccc(S([NH-])(=O)=O)cc2)cc(C(=O)[O-])c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"OCC1C[N+:21]2([H:20])CCC1CC2.S=C[N-:10]c1ccc(Cl)cc1>>OCC1C[N:21]2CCC1CC2.S=C[N:10](c1ccc(Cl)cc1)[H:20] 10=20;20,21=21",
"NC(=O)[C@@H](O)[C@H](N)C(=O)[O-:10].c1ccc(/N=[N+:21](/c2ccccc2)[H:20])cc1>>NC(=O)[C@@H](O)[C@H](N)C(=O)[O:10][H:20].c1ccc(/N=[N:21]/c2ccccc2)cc1 10=20;20,21=21",
"C1CN(CC[N+:21]2([H:20])CCOCC2)CCO1.CC(CN1c2ccccc2Sc2ccccc21)[N:10](C)C>>C1CN(CC[N:21]2CCOCC2)CCO1.CC(CN1c2ccccc2Sc2ccccc21)[N+:10](C)(C)[H:20] 10=20;20,21=21",
"CC[NH:10]CCN.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC[NH+:10](CCN)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Clc1ccc(C(Nc2ccccc2)[O-:10])cc1.O=C(C1=CN=CC=C1)[CH:21](C1=CC=C(Cl)C([N+](=O)[O-])=C1)[H:20]>>Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1.O=C(C1=CN=CC=C1)[CH-:21]C1=CC=C(Cl)C([N+](=O)[O-])=C1 10=20;20,21=21",
